US05422039
Then, the optically active 1,2,3,4-tetrahydro-6-hydroxynaphthalene-2-carboxylate thus obtained is caused to react with 4-alkoxybiphenylcarboxylic acid using methylene chloride as a solvent in the presence of 4-N,N-dimethylaminopyridine while a solution of N,N'-dicyclohexylcarbodiimide is dropwise added, to obtain a tetralin compound that is a liquid crystal material having at least two optically active carbon atoms.

reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tetralin | C1CCCC2=CC=CC=C12 | C10H12
